US07893088B2
suspension of 6-Hydroxy-2H-isoquinolin-1-one (410 mg, 2.52 mmol) and potassium carbonate (420 mg, 3.03 mmol) in DMF (7 ml) was heated to 110° C. and a solution of methanesulfonic acid cis-4-(tert-butoxycarbonylmethylamino)cyclohexyl ester (930 mg, 3.03 mmol) in DMF (3 ml) was added dropwise. Heating was continued at 110° C. for 16 hours and the solvent removed in vacuo. The residue was taken up in chloroform/isopropanol (3:1) and washed with aqueous sodium hydrogen carbonate. The organics were collected through a hydrophobic frit and concentrated to afford crude product. The residue was purified by flash chromatography on silica (eluent: dichloromethane followed by 2M ammonia in methanol) to give trans-methyl[4-(1-oxo-1,2-dihydroisoquinolin-6-yloxy)cyclohexyl]carbamic acid tert-butyl ester (400 mg, 42%), EI-MS: m/z=373.1 [M+H]+.

reactant | 6-Hydroxy-2H-isoquinolin-1-one | 2.52 mmol, 410 mg | OC=1C=C2C=CNC(C2=CC1)=O | C9H7NO2
reactant | potassium carbonate | 3.03 mmol, 420 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanesulfonic acid cis-4-(tert-butoxycarbonylmethylamino)cyclohexyl ester | 3.03 mmol, 930 mg | C(C)(C)(C)OC(=O)CN[C@H]1CC[C@H](CC1)OS(=O)(=O)C | C13H25NO5S
solvent | DMF | 7 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | trans-methyl[4-(1-oxo-1,2-dihydroisoquinolin-6-yloxy)cyclohexyl]carbamic acid tert-butyl ester | 400 mg, 42% | C(C)(C)(C)OC(N([C@@H]1CC[C@H](CC1)OC=1C=C2C=CNC(C2=CC1)=O)C)=O | C21H28N2O4
